US07759387B2
2-Amino-1-(4-benzyloxy-phenyl)-ethanone, hydrochloride
Hexamine (5.6 g; 40 mmol) was added to a solution of 1-(4-benzyloxy-phenyl)-2-bromo-ethanone (12.2 g; 40 mmol) in chloroform (80 ml), and stirred for 3 h. Dry ether (80 ml) was added and the solid that separated was filtered, washed with ether, dried then suspended in methanol (100 ml) and con. HCl (20 ml) and allowed to stir for 16 h. The reaction mixture was concentrated, and treated with water (20 ml). The solid obtained was filtered, washed with cold water (2×10 ml) and dried to obtain the title compound. Yield, 10 g (89.9%); mp, 228-29° C.; MS (EI): 241, 211, 91; analysis: C15H16ClNO2 requires: C, 64.87; H, 5.81; N, 5.04; found: C, 64.86; H, 6.11; N, 5.16%.

reactant | Hexamine | 40 mmol, 5.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 1-(4-benzyloxy-phenyl)-2-bromo-ethanone | 40 mmol, 12.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-1-(4-benzyloxy-phenyl)-ethanone, hydrochloride | Cl.NCC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | InChI=1S/C15H15NO2.ClH/c16-10-15(17)13-6-8-14(9-7-13)18-11-12-4-2-1-3-5-12;/h1-9H,10-11,16H2;1H
